US08664258B2
Preparation of 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline
N-Bromosuccinimide (0.931 g, 5.23 mmol) was added to a suspension of N-(3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)acetamide (1.58 g, 4.75 mmol) in 10 mL of methanol, and the mixture was stirred at room temperature. A clear solution was obtained within minutes. After 20 min, a solution of sodium hydroxide (1.14 g, 28.5 mmol) in water (1.00 mL, 55.5 mmol) was added, and the solution was heated to 160° C. for 0.5 hr under microwave irradiation in a heavy walled sealed tube. The solvent was evaporated under reduced pressure, and the residue was taken up in saturated sodium bicarbonate and extracted twice with dichloromethane. The extracts were combined, dried with sodium sulfate, filtered, and evaporated to dryness. The crude product was purified by flash chromatography (ethyl acetate-hexanes 1:2, then 1:1) to afford the title compound as an off-white solid (1.07 g, 61%). LCMS m/z (%)=371.0 (M+H 81Br 36%), 369.1 (M+H 79Br 30%). 1H NMR (400 MHz, CDCl3) δ ppm 1.44 (s, 3 H), 1.50 (s, 3 H), 3.63 (s, 3 H), 3.81 (d, J=9.85 Hz, 1 H), 4.34 (d, J=9.85 Hz, 1 H), 6.72 (d, J=1.52 Hz, 1 H), 6.87-6.93 (m, 2 H), 7.51 (s, 1 H).

reactant | N-Bromosuccinimide | 5.23 mmol, 0.931 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-(3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)acetamide | 4.75 mmol, 1.58 g | CN1N=CC=C1C=1C=C(C=CC1OCC(C)([N+](=O)[O-])C)NC(C)=O | C16H20N4O4
reactant | sodium hydroxide | 28.5 mmol, 1.14 g | [OH-].[Na+]
reactant | water | 55.5 mmol, 1.00 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 1.07 g, 61% | BrC1=C(N(N=C1)C)C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H17BrN4O3
